************************************************************************
* auCdl Netlist:
* 
* Library Name:  Hummingbird
* Top Cell Name: 2x4_decoder
* View Name:     schematic
* Netlisted on:  Mar 18 19:08:05 2018
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD!
+        VSS!

*.PIN VDD!
*+    VSS!

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    INV_X1
* View Name:    schematic
************************************************************************

.SUBCKT INV_X1 A ZN
*.PININFO A:I ZN:O
MM_i_0 ZN A VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_1 ZN A VDD! VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: NangateOpenCellLibrary
* Cell Name:    AND2_X1
* View Name:    schematic
************************************************************************

.SUBCKT AND2_X1 A1 A2 ZN
*.PININFO A1:I A2:I ZN:O
MM_i_2 net_0 A1 ZN_neg VSS! NM W=2.1E-07 L=5E-08
MM_i_3 VSS! A2 net_0 VSS! NM W=2.1E-07 L=5E-08
MM_i_0 ZN ZN_neg VSS! VSS! NM W=4.15E-07 L=5E-08
MM_i_5 VDD! A2 ZN_neg VDD! PM W=3.15E-07 L=5E-08
MM_i_4 ZN_neg A1 VDD! VDD! PM W=3.15E-07 L=5E-08
MM_i_1 ZN ZN_neg VDD! VDD! PM W=6.3E-07 L=5E-08
.ENDS

************************************************************************
* Library Name: Hummingbird
* Cell Name:    2x4_decoder
* View Name:    schematic
************************************************************************

.SUBCKT 2x4_decoder A0 A1 D<0> D<1> D<2> D<3>
*.PININFO A0:I A1:I D<0>:O D<1>:O D<2>:O D<3>:O
XI1 A1 net14 / INV_X1
XI0 A0 net13 / INV_X1
XI5 A0 A1 D<3> / AND2_X1
XI4 net13 A1 D<2> / AND2_X1
XI3 A0 net14 D<1> / AND2_X1
XI2 net13 net14 D<0> / AND2_X1
.ENDS

